US04477466
4-[(2-Sulfamoyl-5-thienyl)sulfonyl]phenyl Acetate
A solution of 5-[(4-hydroxyphenyl)sulfonyl]thiophene-2-sulfonamide (3.19 g; 0.01 mole) in acetone (60 ml) at -10° was treated with triethylamine (1.11 g; 0.011 mole). Then acetyl chloride (0.86 g; 0.011 mole) was added, dropwise, during 5 minutes at -10°.

reactant | 5-[(4-hydroxyphenyl)sulfonyl]thiophene-2-sulfonamide | 0.01 mole, 3.19 g | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C10H9NO5S3
reactant | triethylamine | 0.011 mole, 1.11 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.011 mole, 0.86 g | C(C)(=O)Cl | C2H3ClO
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 4-[(2-Sulfamoyl-5-thienyl)sulfonyl]phenyl Acetate | C(C)(=O)OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(N)(=O)=O | C12H11NO6S3
